US06353006B1
(1S)-1-(Hydroxymethyl)-3-methylbutylamine was made from (L)-leucine methyl ester as described in Method B1b. The 2-hydroxyethylamine was converted to (1S) -1-(chloromethyl)-3-methylbutanammonium chloride as described in Method B7a. 4-Cyano-2-(trifluoromethyl)phenyl isothiocyanate was reacted with (1S)-1-(chloromethyl)-3-methylbutanammonium chloride according to Method C1c to give (4S)-2-(4-cyano-2-(trifluoromethyl)phenylimino)-4-isobutyl-1,3-thiazolidine. The thiazolidine was reacted with isobutyl bromide according to Method D2f to afford (4S)-2-(4-cyano-2-(trifluoromethyl)phenylimino)-3,4-diisobutyl-1,3-thiazolidine trifluoroacetate salt.

reactant | (1S)-1-(Hydroxymethyl)-3-methylbutylamine | OC[C@H](CC(C)C)N | C6H15NO
reactant | (L)-leucine methyl ester | COC([C@@H](N)CC(C)C)=O | C7H15NO2
reactant | 2-hydroxyethylamine | OCCN | C2H7NO
reactant | 4-Cyano-2-(trifluoromethyl)phenyl isothiocyanate | C(#N)C1=CC(=C(C=C1)N=C=S)C(F)(F)F | C9H3F3N2S
product | (4S)-2-(4-cyano-2-(trifluoromethyl)phenylimino)-4-isobutyl-1,3-thiazolidine | C(#N)C1=CC(=C(C=C1)N=C1SC[C@@H](N1)CC(C)C)C(F)(F)F | C15H16F3N3S
